2121-01-29 05:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2121-1-28**] 09:06 PM
   - improving K and BUN/Cr with fluid resus
   - spurious lab values overnight
 repeat crit WNL
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-1-28**] 10:09 PM
   Insulin - Regular - [**2121-1-29**] 12:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-29**] 05:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 88 (76 - 99) bpm
   BP: 105/63(72) {96/51(65) - 143/66(84)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  4,548 mL
                                                                  1,620 mL
   PO:
                                                                    500 mL
                                                                    750 mL
   TF:
   IVF:
                                                                    648 mL
                                                                    870 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                  1,380 mL
   Urine:
                                                                  1,400 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,798 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.32/28/94.[**Numeric Identifier 126**]/18/-10
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   241 K/uL
   6.7 g/dL
   121 mg/dL
   2.9 mg/dL
   18 mEq/L
   5.9 mEq/L
   43 mg/dL
   114 mEq/L
   140 mEq/L
   18.9 %
   3.7 K/uL
        [image002.jpg]
                            [**2121-1-28**]  10:08 PM
                            [**2121-1-28**]  10:38 PM
                            [**2121-1-29**]  02:49 AM
   WBC
   3.7
   Hct
   18.9
   Plt
   241
   Cr
   3.2
   2.9
   TCO2
   15
   Glucose
   119
   121
   Other labs: Lactic Acid:0.6 mmol/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.2 mg/dL
   Assessment and Plan
   52M with PMHx of diverticular disease who underwent partial colectomy,
   anastomotic leak with subsequent ileostomy with high ostomy output and
   decreased PO intake with ARF, hyperkalemia, anemia
   .
   # Acute renal failure: [**3-16**] in setting of negative fluid balance with
   high ostomy output, decreaed PO with addt'l insult of ACEI, NSAID and
   Bactrim
   - stop NSAIDs and ACEI
   - aggressive fluid resuscitation started in [**Last Name (LF) 73**], [**First Name3 (LF) **] continue with D5W
   with bicard and NS in ICU
   - trend BUN/Cr
   - renal will cont to follow
   - consider possibility of HD if clinical picture changes
   .
   # Hyperkalemia: [**3-16**] setting of acidemia with high stool output and
   renal failure
   - addt'l kayexalate
   - trend renal fxn
   - repeat EKG in ICU
   - may need to give addt'l Ca, Insulin, D50 and kayexalate
   .
   # Increased colostomy output: Unclear etiology, possible recolonization
   of terminal ileum by colonic bacteria, though unlikley.  High ostomy
   output is not uncommon with ileostomy.
   - match fluid output with in's
   - c-diff (though recognized it is low yield)
   - will d/w surgery re: options with meds and diet modifications to slow
   output
   .
   # Anemia - initial crit at 33 down from baseline of 40.  In presence of
   NSAID use and h/o significant nosebleed, pt may have acute and chronic
   blood loss
   - trend HCT
   - type and cross
   - guaiac ostomy
   - LFTs, PT/PTT/INR
   .
   # FEN: Renal Diet
   .
   # PPx: SubQ Heparin, PPI
   .
   # Code: Full
   .
   # Contact: [**Name (NI) 2361**] [**Name (NI) 4405**] (617)
   .
   # Dispo: To floor today
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-1-28**] 07:37 PM
   18 Gauge - [**2121-1-28**] 07:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of history and exam. Agree with assessment
   and plan as outlined by Dr. [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **].  I am not sure how truly volume
   depleted he has been as creat has improved markedly with a pos balance
   of only 1300 cc.  Seems likely Bactrim and his other meds (NSAIDS and
   ACE0 are major contributors. We have added Bactrim to his allergies and
   warned him about sulfa drugs in the future.  Looks as though he will
   safely do without dialysis.  Surgery aware and will address his ostomy
   output.
   Time spent 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2121-1-29**] 14:14 ------

2121-01-30 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   c/o
   -K 4.9, INR 1.2
   -valium 5mg po x1
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hyperkalemia to
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2121-1-29**] 10:30 AM
   Dextrose 50% - [**2121-1-29**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-30**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 78 (58 - 94) bpm
   BP: 108/69(78) {94/18(53) - 149/71(87)} mmHg
   RR: 14 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  6,440 mL
                                                                    655 mL
   PO:
                                                                  3,000 mL
             TF:
   IVF:
                                                                  3,390 mL
                                                                    655 mL
   Blood products:
   Total out:
                                                                  6,200 mL
                                                                    200 mL
   Urine:
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Gen: NAD
   HEENT: NCAT, EOMI, PER, supple neck
   Heart: s1s2, RRR
   Lungs: CTAB, no w/r/r
   Abdomen: soft, NT/ND, partially full darining ostomy bag with scan
   production with no leakage, midline healed abdominal scar
   Ext: no LE edema
   Neuro: AOX3, CNs [**3-26**] grossly intact,
   Psych: Appropriate, pleasant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   325 K/uL
   9.0 g/dL
   96 mg/dL
   1.8 mg/dL
   21 mEq/L
   5.6 mEq/L
   29 mg/dL
   111 mEq/L
   138 mEq/L
   25.5 %
   6.1 K/uL
        [image002.jpg]
                            [**2121-1-28**]  10:08 PM
                            [**2121-1-28**]  10:38 PM
                            [**2121-1-29**]  02:49 AM
                            [**2121-1-29**]  04:30 AM
                            [**2121-1-29**]  08:43 AM
                            [**2121-1-29**]  03:10 PM
                            [**2121-1-29**]  08:15 PM
                            [**2121-1-30**]  05:27 AM
   WBC
   5.2
   4.2
   6.1
   Hct
   26.7
   27.1
   28.3
   25.5
   Plt
   [**Telephone/Fax (3) 4438**]
   Cr
   3.2
   2.9
   2.5
   1.9
   1.7
   1.8
   TCO2
   15
   Glucose
   119
   121
   106
   123
   105
   96
   Other labs: PT / PTT / INR:13.5/29.6/1.2, ALT / AST:17/14, Alk Phos / T
   Bili:79/0.2, Lactic Acid:0.6 mmol/L, Albumin:3.9 g/dL, LDH:118 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   52M with PMHx of diverticular disease who underwent partial colectomy,
   anastomotic leak with subsequent ileostomy with high ostomy output and
   decreased PO intake with ARF, hyperkalemia, anemia
   .
   # Acute renal failure: [**3-16**] in setting of negative fluid balance with
   high ostomy output, decreased PO with addt'l insult of ACEI, NSAID and
   Bactrim.  Sig improvement in Cr in first 24 hours now Cr at 1.8
   - stop NSAIDs and ACEI and bactrim
   - aggressive fluid resuscitation started in ED, continued with D5W with
   bicarb in ICU
   - trend BUN/Cr
   - renal will cont to follow
   .
   # Hyperkalemia: [**3-16**] setting of acidemia with high stool output and
   renal failure, slowly improving
   - trend renal fxn and K levels
   - repeat EKG if K trends upward
   - addt'l Ca, Insulin, D50 PRN
   .
   # Increased ileostomy output: Unclear etiology, ? recolonization of
   terminal ileum by colonic bacteria, though unlikley.  High ostomy
   output is not uncommon with ileostomy.  Seen by surgery y/d
 now on
   Lomotil with good effect.
   - match fluid output with in's
   - can d/c IVF, restart if ostomy output picks up
   - c-diff negative
   .
   # Anemia - initial crit at 33 down from baseline of 40.  In presence of
   NSAID use and h/o significant nosebleed, pt may have acute and chronic
   blood loss.  Hct lower this AM.  Overall trend of blood this admission
   reflects pancytopenia
 possibly [**3-16**] to Batctrim use in presence of
   renal failure
   - trend HCT
   - type and cross
   - guaiac ostomy is negative
   - LFTs, PT/PTT/INR - normal
   .
   # FEN: Renal Diet
   .
   # PPx: SubQ Heparin, PPI
   .
   # Code: Full
   .
   # Contact: [**Name (NI) 2361**] [**Name (NI) 4405**] (617)
   .
   # Dispo: To floor today
 DIARRHEA
 .H/O HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANEMIA, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-1-28**] 07:37 PM
   18 Gauge - [**2121-1-28**] 07:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam as outlined. Agree with
   plan as outlined by Dr. [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **] as outlined. His K has remained
   elevated out of proportion to his creat. Not clear that he is total
   body K overloaded. Plan is to d/c NaHCO2 and I would actually favor
   diuresis with lasix to help correct hyperchloremia.  Creat is still
   abnormal - ? if this could reflect continued effect of Bactrim
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2121-1-30**] 18:04 ------